US06391874B1
(S)-1-(2-(4-(4-Benzyloxy-phenylamino)-quinazolin-6-yl)-3-methyl-3H-imidazol-4-ylmethyl)-pyrrolidine-2-carboxylic acid amide
2-(4-(4-Benzyloxy-phenylamino)-quinazolin-6-yl)-3-methyl-3H-imidazole-4-carbaldehyde was dissolved in dichloromethane (5 ml) containing glacial acetic acid (0.03 ml). L-prolinamide (0.028 g) was added and the mixture stirred at 20° C. for 0.75 hours. Sodium acetoxyborohydride (0.08 g) was added and the reaction stirred at 20° C. for 18 hours. The mixture was partitioned between 2N sodium carbonate and ethyl acetate, the organic phase was dried over magnesium sulphate and concentrated in vacuo. Chromatography on silica gave the title compound (0.008 g) as a yellow solid; tlc (SiO2, CH2Cl2:EtOH:NH3, 100:8:1) Rf 0.18; m/z (M+1)30 534.

reactant | 2-(4-(4-Benzyloxy-phenylamino)-quinazolin-6-yl)-3-methyl-3H-imidazole-4-carbaldehyde | C(C1=CC=CC=C1)OC1=CC=C(C=C1)NC1=NC=NC2=CC=C(C=C12)C1=NC=C(N1C)C=O | C26H21N5O2
reactant | acetic acid | 0.03 ml | C(C)(=O)O | C2H4O2
reactant | L-prolinamide | 0.028 g | N1[C@H](C(=O)N)CCC1 | C5H10N2O
reactant | Sodium acetoxyborohydride | 0.08 g | C(C)(=O)O[BH3-].[Na+]
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
product | (S)-1-(2-(4-(4-Benzyloxy-phenylamino)-quinazolin-6-yl)-3-methyl-3H-imidazol-4-ylmethyl)-pyrrolidine-2-carboxylic acid amide | 0.008 g | C(C1=CC=CC=C1)OC1=CC=C(C=C1)NC1=NC=NC2=CC=C(C=C12)C1=NC=C(N1C)CN1[C@@H](CCC1)C(=O)N | C31H31N7O2
